US06310211B1
8-Methoxy-2-(trifluoromethyl)quinoline
To a solution of 4-chloro-8-methoxy-2-trifluoromethylquinoline (0.57 g) in 5 mL absolute EtOH is added 10% Pd/C (125 mg) and NEt3 (0.3 mL). The reaction is hydrogenated under atmospheric pressure for 0.75 h. The reaction is then filtered. over Celite and the filtrate is evaporated. The residue is taken up in Et2O and the triethylamine hydrochloride salt is filtered. The desired product is obtained as a light yellow solid by evaporation of the Et2O filtrate (0.38 g).

reactant | 4-chloro-8-methoxy-2-trifluoromethylquinoline | 0.57 g | ClC1=CC(=NC2=C(C=CC=C12)OC)C(F)(F)F | C11H7ClF3NO
reactant | NEt3 | 0.3 mL | CCN(CC)CC | C6H15N
solvent | EtOH | 5 mL | CCO | C2H6O
catalyst | Pd/C | 125 mg | [Pd] | Pd
product | 8-Methoxy-2-(trifluoromethyl)quinoline | COC=1C=CC=C2C=CC(=NC12)C(F)(F)F | C11H8F3NO
